US08975443B2
N-p-Tolylmethanesulfonamide
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with potassium phosphate (71.6 mg, 0.337 mmol, 1.1 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (2.8 mg, 0.00307 mmol, 0.01 equivalents) and phosphine ligand (0.00736 mmol, 0.024 equivalents). t-Amyl alcohol (1.1 mL) was syringed into the vial and the mixture was stirred for 30 minutes at 80° C. After cooling to room temperature, methanesulfonamide (35.0 mg, 0.368 mmol, 1.2 equivalents) and p-methylbenzene nonaflate (100 mg, 0.307 mmol, 1 equivalent) were added to the reaction solution. The vial was sealed with a crimp top and placed in a heating block at 80° C. After 16 hours, the reaction was cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with CH2Cl2 (2 mL) and filtered through a pad of diatomaceous earth. The vial was rinsed with CH2Cl2 (2×2 mL), then the filter cake was washed with CH2Cl2 (2×2 mL). The filtrate was transferred to a tared flask and concentrated on a rotary evaporator to furnish an orange oil. The crude concentrate was sampled for a wt % analysis. Purified material could be isolated as an off-white solid by silica gel flash column chromatography (30 g silica gel, gradient from 85:15 to 70:30 heptane:ethyl acetate) (literature reference: Shekhar S, et al. J. Org. Chem. 2011; 76: 4552-4563). 1H NMR (400 MHz, CDCl3) δ ppm 7.22-7.07 (m, 4H), 6.57 (br s, 1H), 2.99 (s, 3H), 2.34 (s, 3H).

reactant | potassium phosphate | 0.337 mmol, 71.6 mg, 1.1 equivalents | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phosphine | 0.00736 mmol, 0.024 equivalents | P | H3P
reactant | t-Amyl alcohol | 1.1 mL | C(C)(C)(CC)O | C5H12O
reactant | methanesulfonamide | 0.368 mmol, 35.0 mg, 1.2 equivalents | CS(=O)(=O)N | CH5NO2S
reactant | p-methylbenzene nonaflate | 0.307 mmol, 100 mg, 1 equivalent | S(=O)(=O)(O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.CC1=CC=CC=C1
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00307 mmol, 2.8 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-p-Tolylmethanesulfonamide | C1(=CC=C(C=C1)NS(=O)(=O)C)C | C8H11NO2S
